* ADA4528-x SPICE Macro-model        
* Description: Amplifier
* Generic Desc: 2.2/5.5V, CMOS, RRIO, ZD
* Developed by: HH
* Revision History: 
* 1.0 (8/2012) – VW – initial release
* 2.0 (9/2014) - fixed Vos
* 3.0 (8/2016) - Added ASSOC line for Simetrix symbol compatibility
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html 
* for License Statement. Use of this model indicates your acceptance
* of the terms and provisions in the License Statement.
* 
*
* BEGIN Notes:
*    
* Model created for Vsy=5V and at 25C
*  
* Not Modeled:
* Temperature effects
* 
* END Notes
*
*
* Node Assignments
*                               noninverting input
*                               |    inverting input
*                               |    |     positive supply
*                               |    |     |      negative supply
*                               |    |     |      |     output
*                               |    |     |      |     |
*                               |    |     |      |     |
.SUBCKT ADA4528 1   2   99   50   45
*#ASSOC Category=Op-amp symbol=opamp
*
*
* INPUT STAGE
*
M1  14  7  8  8 PIX L=1E-6 W=1.969E-02
M2  16  2  8  8 PIX L=1E-6 W=1.969E-02
M3  17  7 10 10 NIX L=1E-6 W=1.969E-02
M4  18  2 10 10 NIX L=1E-6 W=1.969E-02
RD1 14 50 2.000E+03
RD2 16 50 2.000E+03
RD3 99 17 2.000E+03
RD4 99 18 2.000E+03
C1  14 16 5.5E-12; 
C2  17 18 5.5E-12
I1  99  8 200.00E-06
I2  10 50 200.00E-06
V1  99  9 1.086E+00
V2  13 50 1.086E+00
D1   8  9 DX
D2  13 10 DX
EOS  7  1 POLY(4)(22,98)(73,98)(81,98) (83,98) 2.5E-06 1 1 0.768 0.73
IOS 1 2 10.0E-12
*
* GAIN STAGE
*
G1 98 30 POLY(2) (14,16) (17,18) 0 2.841E-03 2.841E-03
R1 30 98 1.000E+06
V3 32 30 -0.50E-00; 
V4 30 33 -1.0E-00; 
D3 32 98 DX
D4 98 33 DX
EZ (145 0) (45 0) 1
CF 145 31 5.9E-09;  
RZ  30 31 1.4E-6;  
*
* VOLTAGE NOISE REFERENCE
*
VN1 80 98 0
RN1 80 98  16.95E-03
HN  81 98 VN1 6.6E0
RNHH1 81 183 5.3
CHH1 183 98 1pF
*
* BPF
*
EBP1 (200 98) (81 98) 1E0; 81
R201 200 201  169.0
R203 201  98  1.32
C201 201  83 1.6E-08
C202 201 202 1.6E-08
R202 202  83 2.0E+3
EBP2  (83 98) (98 202) 1E7
*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 0.5 0.5
GSY  99 50 POLY(1) (99,50) 670E-6 37E-06
*
* CMRR
*
E1  21 98 POLY(2) (1,98) (2,98) 0 1.270E-02 1.270E-02
R10 21 22 5.053E+03
R20 22 98 1.989E-02
C10 21 22 1.000E-06
*
* PSRR 
*
EPSY 72 98 POLY(1) (99,50) -2.812E-00 5.623E-01
RPS3 72 73 5.305E+04
RPS4 73 98 5.305E-02
CPS3 72 73 1.00E-06
*
* OUTPUT STAGE
*
M5  45 46 99 99 POX L=1E-6 W=3.707E-04
M6  45 47 50 50 NOX L=1E-6 W=5.475E-04
EG1 99 46 POLY(1) (98,30) 7.439E-01 1
EG2 47 50 POLY(1) (30,98) 7.025E-01 1
*
* MODELS
.MODEL POX PMOS (LEVEL=2,KP=6.00E-05,VTO=-0.6,LAMBDA=0.03,RD=3)
.MODEL NOX NMOS (LEVEL=2,KP=8.00E-05,VTO=+0.6,LAMBDA=0.02,RD=1)
.MODEL PIX PMOS (LEVEL=2,KP=5.00E-05,VTO=-0.5,LAMBDA=0.02)
.MODEL NIX NMOS (LEVEL=2,KP=5.00E-05,VTO=0.5, LAMBDA=0.02)
.MODEL DX D(IS=1E-14,RS=5)
.MODEL DNOISE D(IS=1E-14,RS=1E3,KF=2.50E-20)
*
.ENDS ADA4528
*